### PR TITLE
Erdos 364

### LINKED ISSUE #373: Erdős Problem 327:  Triples of consecutive integers powerful?
### What is the conjecture
    
https://www.erdosproblems.com/364

  Are there any triples of consecutive positive integers all of which are powerful (i.e. if $p\mid n$ then $p^2\mid n$)?

Status: open

### Prerequisites needed
definition of "powerful" should go into ForMathlib, so that other problems can use it.

See also #372 

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #373.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/364.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+theorem erdos_364 :
+    ¬ ∃ (n : ℕ), powerful n ∧ powerful (n + 1) ∧ powerful (n + 2) := by
+  sorry
+
+/--
+Erdős [Er76d] conjectured a stronger statement: if $n_k$ is the $k$th powerful number,
+then $n_{k+2} - n_k > n_k^c$ for some constant $c > 0$.
+-/
+@[category research open, AMS 11]
+theorem erdos_364_strong :
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/364.lean]: nit: the convention is to use `.variants.` when naming additional results
```suggestion
theorem erdos_364.variants.strong :
```

File: FormalConjectures/ForMathlib/NumberTheory/Powerful.lean [hunk 2]
```diff
@@ -0,0 +1,37 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Data.Nat.Prime.Defs
+
+
+/-- Powerful number is a natural number where for every prime divisor p, p^2 divides n -/
+def powerful (n : ℕ) : Prop :=
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/NumberTheory/Powerful.lean]: Functions should be named per the return type, so `Prop`-value functions are `UpperCamelCase`.

```suggestion
def Powerful (n : ℕ) : Prop :=
```

File: FormalConjectures/ErdosProblems/364.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+    ∃ (c : ℝ) (h : c > 0), ∀ (k : ℕ),
+    Nat.nth powerful (k + 2) - Nat.nth powerful k > (Nat.nth powerful k : ℝ) ^ c := by
+  sorry
+
+/-- At least one of n, n + 1, n + 2, n + 3 is 2 mod 4. -/
+@[category API, AMS 11]
+lemma consecutive_2mod4 (n : ℕ) :
+    (n % 4 = 2) ∨ ((n + 1) % 4 = 2) ∨ ((n + 2) % 4 = 2) ∨ ((n + 3) % 4 = 2) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/364.lean]: `omega` will prove this, so it can be removed and inlined in `cases` in the below proof

File: FormalConjectures/ForMathlib/NumberTheory/Powerful.lean [hunk 4]
```diff
@@ -0,0 +1,37 @@
...
+  ∀ (p : ℕ), p.Prime → p ∣ n → p ^ 2 ∣ n
+
+/-- If n ≡ 2 mod 4, then n is not powerful -/
+theorem powerful_not_2mod4 (n : ℕ) (h : n % 4 = 2) : ¬ powerful n := by
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/NumberTheory/Powerful.lean]: nit: I think the following naming makes more sense here
```suggestion
theorem not_powerful_of_2mod4 (n : ℕ) (h : n % 4 = 2) : ¬ powerful n := by
```

File: FormalConjectures/ErdosProblems/364.lean [hunk 5]
```diff
@@ -0,0 +1,94 @@
...
+    right; right; right;
+    calc
+      (n + 3) % 4 = (4 * k + 3 + 3) % 4 := by rw [hdiv]
+      _ = (4 * k + (3 + 3)) % 4 := by ring
+      _ = 2 := by norm_num
+
+/--
+There is no quadruple of powerful numbers, since at least one of the four numbers must be
+2 mod 4, which cannot be powerful (since 2 divides it, but 2^2 does not).
+-/
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/364.lean]:
```suggestion
/--
There is no quadruple of powerful numbers, since at least one of the four numbers must be
$2 \pmod{4}$, which cannot be powerful (since $2$ divides it, but $2^2$ does not).
-/
```

File: FormalConjectures/ForMathlib/NumberTheory/Powerful.lean [hunk 6]
```diff
@@ -0,0 +1,37 @@
...
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import Mathlib.Data.Nat.Prime.Defs
+
+
+/-- Powerful number is a natural number where for every prime divisor p, p^2 divides n -/
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/NumberTheory/Powerful.lean]: Please use either LaTeX or backticks around the maths in docstrings, either is fine but consistency in a file is preferred.

File: FormalConjectures/ErdosProblems/364.lean [hunk 7]
```diff
@@ -0,0 +1,94 @@
...
+@[category undergraduate, AMS 11]
+theorem erdos_364_weak :
+    ¬ ∃ (n : ℕ), powerful n ∧ powerful (n + 1) ∧ powerful (n + 2) ∧ powerful (n + 3) := by
+  intro h
+  obtain ⟨n, hn⟩ := h
+  have h2mod4 := consecutive_2mod4 n
+  cases h2mod4 with
+  | inl h2 => exact (powerful_not_2mod4 n h2) hn.1
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/364.lean]: parentheses are not required here, and similar below

File: FormalConjectures/ErdosProblems/364.lean (hunk 3 above)
Comment (seewoo5) [reply FormalConjectures/ErdosProblems/364.lean]: I didn't know `omega`, thanks!

**Comment by seewoo5** [comment]
@smmercuri Thanks for the reviews! I reflected your comments.

File: FormalConjectures/ErdosProblems/364.lean [hunk 8]
```diff
@@ -0,0 +1,61 @@
...
+/--
+There is no quadruple of powerful numbers, since at least one of the four numbers must be
+$2 \pmod{4}$, which cannot be powerful (since $2$ divides it, but $2^2$ does not).
+-/
+@[category undergraduate, AMS 11]
+theorem erdos_364.variants.weak :
+    ¬ ∃ (n : ℕ), Powerful n ∧ Powerful (n + 1) ∧ Powerful (n + 2) ∧ Powerful (n + 3) := by
+  intro h
+  obtain ⟨n, hn⟩ := h
+  have h2mod4 : (n % 4 = 2) ∨ ((n + 1) % 4 = 2) ∨ ((n + 2) % 4 = 2) ∨ ((n + 3) % 4 = 2) := by omega
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/364.lean]: nit: can remove some parens here 
```suggestion
  have h2mod4 : n % 4 = 2 ∨ (n + 1) % 4 = 2 ∨ (n + 2) % 4 = 2 ∨ (n + 3) % 4 = 2 := by omega
```

File: FormalConjectures/ErdosProblems/364.lean [hunk 9]
```diff
@@ -0,0 +1,61 @@
...
+/-- There is no consecutive triple of powerful numbers. -/
+@[category research open, AMS 11]
+theorem erdos_364 :
+    ¬ ∃ (n : ℕ), Powerful n ∧ Powerful (n + 1) ∧ Powerful (n + 2) := by
+  sorry
+
+/--
+Erdős [Er76d] conjectured a stronger statement: if $n_k$ is the $k$th powerful number,
+then $n_{k+2} - n_k > n_k^c$ for some constant $c > 0$.
+-/
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/364.lean]: let's add the reference here
```suggestion
/--
Erdős [Er76d] conjectured a stronger statement: if $n_k$ is the $k$th powerful number,
then $n_{k+2} - n_k > n_k^c$ for some constant $c > 0$.

[Er76d] Erdős, P., Problems and results on number theoretic properties of consecutive integers and related questions. Proceedings of the Fifth Manitoba Conference on Numerical Mathematics (Univ. Manitoba, Winnipeg, Man., 1975) (1976), 25-44.
-/
```

**Comment by smmercuri** [comment]
Thank you! LGTM modulo the comments above

File: FormalConjectures/ForMathlib/NumberTheory/Powerful.lean [hunk 10]
```diff
@@ -0,0 +1,37 @@
...
+  have two_dvd_n : 2 ∣ n := by
+    rw [←Nat.div_add_mod n 4, h]
+    exact Nat.dvd_add (dvd_mul_of_dvd_left (by decide) (n / 4)) (dvd_refl 2)
+  have four_dvd_n : 4 ∣ n := by
+    have h2 := hp 2 Nat.prime_two two_dvd_n
+    simp only [Nat.reducePow] at h2
+    exact h2
+  have h3 : n % 4 = 0 := by rw [Nat.mod_eq_zero_of_dvd four_dvd_n]
+  rw [h3] at h
+  exact Nat.noConfusion h
```
Comment (mo271) [inline FormalConjectures/ForMathlib/NumberTheory/Powerful.lean]:
```suggestion
  rw [Powerful]
  push_neg
  use 2
  simp only [Nat.prime_two, Nat.reducePow, true_and]
  constructor
  · rw [←Nat.div_add_mod n 4, h]
    exact Nat.dvd_add (dvd_mul_of_dvd_left (by decide) (n / 4)) (dvd_refl 2)
  · intro h
    simp_all only [OfNat.zero_ne_ofNat, Nat.dvd_iff_mod_eq_zero.mp h]
```
A little golf

File: FormalConjectures/ErdosProblems/364.lean [hunk 11]
```diff
@@ -0,0 +1,61 @@
...
+  have h2mod4 : (n % 4 = 2) ∨ ((n + 1) % 4 = 2) ∨ ((n + 2) % 4 = 2) ∨ ((n + 3) % 4 = 2) := by omega
+  cases h2mod4 with
+  | inl h2 => exact not_powerful_of_2mod4 n h2 hn.1
+  | inr h2 =>
+    cases h2 with
+    | inl h2 => exact not_powerful_of_2mod4 (n + 1) h2 hn.2.1
+    | inr h2 =>
+      cases h2 with
+      | inl h2 => exact not_powerful_of_2mod4 (n + 2) h2 hn.2.2.1
+      | inr h2 => exact not_powerful_of_2mod4 (n + 3) h2 hn.2.2.2
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/364.lean]:
```suggestion
  rcases h2mod4 with (_|_|_|_) <;>
  simp_all [not_powerful_of_2mod4]
```
shorter

**Review by mo271 — APPROVED** [review]

**Comment by mo271** [comment]
Thanks for the contribution!
